US04394515
2-(3'-Bromophenylthio)-5-nitrobenzyl Cyanide
2.16 G. 2-(3'-bromophenylthio)-5-nitrobenzyl bromide is refluxed in 50 cc. ethanol and 2.4 g. of cyanide ion exchange resin for 1/2 hour. The mixture is filtered hot and the resin washed with ethyl acetate. The combined organic filtrates are evaporated to dryness to yield 1.85 g. of crude residue which is chromatographed on silica gel. Elution with benzene affords 800 mg. of the desired compound.

reactant | 2-(3'-bromophenylthio)-5-nitrobenzyl bromide | BrC=1C=C(C=CC1)SC1=C(CBr)C=C(C=C1)[N+](=O)[O-] | C13H9Br2NO2S
reactant | cyanide | [C-]#N
solvent | ethanol | C(C)O | C2H6O
product | 2-(3'-Bromophenylthio)-5-nitrobenzyl Cyanide | BrC=1C=C(C=CC1)SC1=C(CC#N)C=C(C=C1)[N+](=O)[O-] | C14H9BrN2O2S
